US06627651B1
To methyl 2-cyclohexyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (412 mg, 1.37 mmol) dissolved in a mixed solvent of methanol (5 ml) and THF (5 ml) was added a 1N aqueous solution of sodium hydroxide (4.0 ml), and the resulting mixture was stirred at 50° C. for 6 hours. The reaction mixture was mixed with 1 N hydrochloric acid (4.0 ml) at 0° C., was concentrated under reduced pressure and was mixed with water, and an insoluble material was collected by filtration. The insoluble material was washed with water and was dried under reduced pressure to obtain 2-cyclohexyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid (388 mg, 1.35 mmol, 99%).

reactant | methyl 2-cyclohexyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.37 mmol, 412 mg | C1(CCCCC1)OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C19H24O3
reactant | sodium hydroxide | 4.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 4.0 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-cyclohexyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 1.35 mmol, 388 mg, 99% | C1(CCCCC1)OC=1C=CC2=C(C=C(CCC2)C(=O)O)C1 | C18H22O3
